Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],5.27300189899
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.701486337940002
[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9]>>[C:5][C:6]([H:7])([H:8])[H:9].[O:1][C:2]#[C:3][H:4],4.32509761165
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],2.62007758865
[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-3.82392638353
[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-8.243284427999999
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][H:4],2.29092808178
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-6.27702627236
[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-7.48922724253
[H:10].[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[O:11][H:12]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[O:11][H:12],-3.88193811223
[H:1][O:2][C:3]([H:4])[C:13]([H:14])([H:15])[H:16].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.76249723095
[H:1][C:2]#[C:3][C:5][O:6][C:7]#[C:8][H:9].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]#[C:8][H:9],-2.00370544463
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[O:9]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-0.93103681905
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:10]([C:9]#[C:7][H:8])[H:11]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]1([H:8])[C:9][C:10]1[H:11],2.02558582574
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2].[O:3]=[C:4][O:5][C:6]([H:7])([H:8])[H:9],3.21133142745
[H:1][O:2][C:3]1=[C:4]([H:5])[C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],0.43162811253
[H:1][C:2]=[C:3]=[C:4][H:5]>>[C:4][H:5].[H:1][C:2]#[C:3],7.212932046160001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[H:1][C:2],8.79176262042
[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9],-1.08027074926
[H:1][C:2]#[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10].[H:3]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10],-2.43090992247
[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])[H:7].[H:1][C:2][O:3][C:4][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],8.143040856799999
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],1.81257834737
[C:1]=[C:2]([H:3])[H:4].[C:5](=[O:6])=[C:7]([H:8])[C:9]([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-0.684147489899
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5],4.37052642418
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[C:3]([H:4])=[C:5]([H:6])[H:7].[H:1][C:2],6.13181919665
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][H:7]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.96996633121
[C:5]([H:6])[O:7][O:8][H:9].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8][H:9],-1.1004324405
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6][O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],1.1425677077299998
[C:1][C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.61474770515
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11].[O:1],2.80378478106
